US05648490
A suspension of 7.9 g (0.05 mol) of 2,4,6-triamino-5-nitrosopyrimidine in 50 ml of water was mixed with 3.25 g (0.05 mol) of ammonium formate, 13.9 g (0.3 mol) of formic acid and 0.5 g of the palladium catalyst according to Example 1. This mixture was heated for 4 hours to 100° C. After cooling, the catalyst was filtered off, the filtrate concentrated to about 25 ml and neutralised with about 10 ml of 25% aqueous sodium hydroxide solution to pH 7.5. A crystal slurry thereby resulted which was filtered off with suction. In this way, there were obtained 8.1 g (87% of theory) of pale beige crystals of 2,4,6-triamino-5-formylaminopyrimidine hydrate.

reactant | 2,4,6-triamino-5-nitrosopyrimidine | 0.05 mol, 7.9 g | NC1=NC(=C(C(=N1)N)N=O)N | C4H6N6O
reactant | ammonium formate | 0.05 mol, 3.25 g | C(=O)[O-].[NH4+]
reactant | formic acid | 0.3 mol, 13.9 g | C(=O)O | CH2O2
solvent | water | 50 ml | O | H2O
catalyst | palladium | 0.5 g | [Pd] | Pd
product | 2,4,6-triamino-5-formylaminopyrimidine hydrate | O.NC1=NC(=C(C(=N1)N)NC=O)N | InChI=1S/C5H8N6O.H2O/c6-3-2(9-1-12)4(7)11-5(8)10-3;/h1H,(H,9,12)(H6,6,7,8,10,11);1H2
